US06716859B2
2-(3-Trifluoromethyl-anilino)-pyridine-3-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide
The title compound was prepared from 2-(3-trifluoromethyl-phenylamino)-nicotinic acid-hydrazide and 3-trifluoromethyl-benzaldehyde by a procedure similar to Example 22. 1H NMR (DMSO-d6): 12.30 (s, 1H), 10.58 (s, 1H), 8.53 (s, 1H), 8.45 (d, J=4.5 Hz, 1H), 8.31 (s, 1H), 8.24 (d, J=8.1 Hz, 1H), 8.12 (s, 1H), 8.06 (d, J=8.1 Hz), 7.84 (m, 3H), 7.54 (t, J=8.1 Hz, 1H), 7.30 (d, J=8.1 Hz, 1H), 7.03 (q, J=4.5 Hz, 1H).

reactant | 2-(3-trifluoromethyl-phenylamino)-nicotinic acid-hydrazide | FC(C=1C=C(C=CC1)NC1=C(C(=O)NN)C=CC=N1)(F)F | C13H11F3N4O
reactant | 3-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | 2-(3-Trifluoromethyl-anilino)-pyridine-3-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide | FC(C=1C=C(C=NNC(=O)C=2C(=NC=CC2)NC2=CC(=CC=C2)C(F)(F)F)C=CC1)(F)F | C21H14F6N4O
